US05250522
To a stirred mixture of (S)-2-amino-3-(biphenyl-4-yl)-propionic acid benzyl ester hydrochloride (4.7 g, 12.8 mmol) in ethyl acetate (100 mL) and water (100 mL) at 5° is added sodium bicarbonate (1.13 g, 13.5 mmol). The solution is stirred for 5 minutes, then aqueous formaldehyde (37% aq., 1.25 mL, 16.6 mmol) is added. The mixture is allowed to warm slowly to room temperature while being stirred vigorously for 18 hours. The organic layer is separated and the aqueous layer extracted with ethyl acetate (50 mL). The combined organic phases are washed with water (50 mL), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The resulting crude hexahydrotriazine intermediate is obtained as a white solid that is dried under high vacuum. Some of that material (0.75 g, 2.18 mmol) is dissolved in toluene (10 mL) and kept under nitrogen. Diphenyl phosphite (0.5 mL, 2.62 mmol) is added and the solution is warmed in a bath pre-heated to 70°. After 2 hours, the reaction mixture is allowed to cool to room temperature. After evaporation of the solvent under reduced pressure, the residue is purified by flash-chromatography on silica gel, eluting with a gradient of ethyl acetate (50% to 90%) in hexane. The product is recrystallized from ether/hexane, affording (S)-3-(biphenyl-4-yl)-2-[(diphenylphosphonomethyl)-amino]-propionic acid benzyl ester as a while solid, m.p. 85°-86°; [α]D =+8.40 (c 1.04, CHCl3).

reactant | (S)-2-amino-3-(biphenyl-4-yl)-propionic acid benzyl ester hydrochloride | 12.8 mmol, 4.7 g | Cl.C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)=O
reactant | sodium bicarbonate | 13.5 mmol, 1.13 g | C([O-])(O)=O.[Na+]
reactant | formaldehyde | 16.6 mmol, 1.25 mL | C=O | CH2O
reactant | Diphenyl phosphite | 2.62 mmol, 0.5 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-3-(biphenyl-4-yl)-2-[(diphenylphosphonomethyl)-amino]-propionic acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NCP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1)=O | C35H32NO5P
